US09260363B2
Synthesis of 1-(6-bromonaphthalen-2-yl)pyrene
A mixture of 12.1 g (42.4 mmol) of 2,6-dibromonaphthalene, 10.43 g (42.4 mmol) of Pyren-1-ylboronic acid, 0.5 g (0.424 mmol) of Tetrakis(triphenylphosphine)palladium, 32 ml of 2M Na2CO3, 80 ml of EtOH and 160 ml toluene was degassed and placed under nitrogen, and then heated at 90° C. for 24 h. After the reaction finish, the mixture was allowed to cool to room temperature. The organic layer was extracted with ethyl acetate and water, dried with anhydrous magnesium sulfate, the solvent was removed and the residue was purified, by column chromatography on silica (hexane-dichloromethane) to give product 8.3 g (48%) as a white solid.

reactant | 2,6-dibromonaphthalene | 42.4 mmol, 12.1 g | BrC1=CC2=CC=C(C=C2C=C1)Br | C10H6Br2
reactant | Pyren-1-ylboronic acid | 42.4 mmol, 10.43 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)B(O)O | C16H11BO2
reactant | Na2CO3 | 2M, 32 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 80 ml | CCO | C2H6O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.424 mmol, 0.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(6-bromonaphthalen-2-yl)pyrene | 8.3 g, 48% | BrC=1C=C2C=CC(=CC2=CC1)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C26H15Br
